US06852731B2
tert-Butyl 2-hydroxy-2-(4-morpholin-4-ylphenyl)ethyl(methyl)carbamate
tert-Butyl 2-oxo-2-(4-morpholin-4-ylphenyl)ethyl(methyl)carbamate (1.41 g, 4.22 mmol) was stirred under N2 in dry THF (25 ml) and absolute ethanol (2 ml). Sodium borohydride (0.16 g, 4.23 mmol) was added and the reaction stirred for 18 hr then the solvents evaporated. The residue was chromatographed over silica gel (90 g) eluting with 50% ethyl acetate-hexane. The product was obtained (1.0 g, 71%) as a clear gum which slowly crystallized to give a white solid.

reactant | tert-Butyl 2-oxo-2-(4-morpholin-4-ylphenyl)ethyl(methyl)carbamate | 4.22 mmol, 1.41 g | O=C(CN(C(OC(C)(C)C)=O)C)C1=CC=C(C=C1)N1CCOCC1 | C18H26N2O4
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | Sodium borohydride | 4.23 mmol, 0.16 g | [BH4-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
product | tert-Butyl 2-hydroxy-2-(4-morpholin-4-ylphenyl)ethyl(methyl)carbamate | OC(CN(C(OC(C)(C)C)=O)C)C1=CC=C(C=C1)N1CCOCC1 | C18H28N2O4
